US05821246
Using an analogous procedure to that described in Example 37, 6-hydroxy-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline was reacted with 2-dimethylaminoethyl chloride to give 6-(2-dimethylaminoethoxy)-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline in 47% yield, m.p. 125°-126° C.;

reactant | 6-hydroxy-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline | OC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C | C22H20N4O3
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
product | 6-(2-dimethylaminoethoxy)-7-methoxy-4-[3-methyl-4-(2-pyridylmethoxy)anilino]quinazoline | 47% yield | CN(CCOC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=C(C=C1)OCC1=NC=CC=C1)C)C | C26H29N5O3
